US04742069
A solution of 3.8 g of 4-amino-N-methyl-2-oxo-3-pentenesulfonamide and 1.9 ml of methyl iodide in 50 ml of dimethylformamide was treated with 6 g of finely ground dry potassium carbonate and the mixture was thereupon stirred intensively at room temperature under argon for 6 hours. The organic salts were then filtered off, rinsed with methylene chloride and the filtrate was concentrated to dryness under reduced pressure. The residue was partitioned between water and methylene chloride, the organic phase was washed with a saturated aqueous solution of sodium chloride, dried over sodium sulfate and evaporated to dryness. The solid product was recrystallized from isopropanol, whereby there were obtained 2.5 g of 4-amino-N,N-dimethyl-2-oxo-3-pentenesulfonamide in the form of colorless crystals, m.p. 137°-140°.

reactant | 4-amino-N-methyl-2-oxo-3-pentenesulfonamide | 3.8 g | NC(=CC(CS(=O)(=O)NC)=O)C | C6H12N2O3S
reactant | methyl iodide | 1.9 ml | CI | CH3I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-amino-N,N-dimethyl-2-oxo-3-pentenesulfonamide | 2.5 g | NC(=CC(CS(=O)(=O)N(C)C)=O)C | C7H14N2O3S
